US05571821
To a solution of 2-benzylthiophene (0.875 g, 5 mmol) in chloroform (2 ml) at 0° C. was added chlorosulfonic acid dropwise and the reaction was stirred at 0° C. for 30 min. The reaction mixture was decomposed by pouring onto crushed ice (20 g). The mixture was extracted with ethyl acetate, dried over MgSO4 and filtered. The solvent was removed under reduced pressure to give 5-benzylthiophene-2-sulfonic acid.

reactant | 2-benzylthiophene | 5 mmol, 0.875 g | C(C1=CC=CC=C1)C=1SC=CC1 | C11H10S
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-benzylthiophene-2-sulfonic acid | C(C1=CC=CC=C1)C1=CC=C(S1)S(=O)(=O)O | C11H10O3S2
